US07453010B2
A mixture of 5.52 g of trans-4-[4-(benzylamino)cyclohexyl]phenyl trifluoromethanesulfonate (13.3 mmol) and of 5 g of 4-benzyloxy-3-(N-(tert-butoxycarbonyl)-N-(methylsulfonyl)amino)-1-((2S)-2,3-epoxypropoxy)benzene (11.2 mmol) in ethanol (72 ml) is brought to reflux for 5 h. The solvent is evaporated under reduced pressure and trans-4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(tert-butoxycarbonyl)(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenyl trifluoromethanesulfonate is obtained in the form of an oil (6.94 g, 72%) after purification on silica gel (eluent: dichloromethane/methanol 98/2). [M+H+]=863.4

reactant | trans-4-[4-(benzylamino)cyclohexyl]phenyl trifluoromethanesulfonate | 13.3 mmol, 5.52 g | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NCC1=CC=CC=C1)(F)F | C20H22F3NO3S
reactant | 4-benzyloxy-3-(N-(tert-butoxycarbonyl)-N-(methylsulfonyl)amino)-1-((2S)-2,3-epoxypropoxy)benzene | 11.2 mmol, 5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC[C@@H]1CO1)N(S(=O)(=O)C)C(=O)OC(C)(C)C | C22H27NO7S
solvent | ethanol | 72 ml | C(C)O | C2H6O
product | trans-4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(tert-butoxycarbonyl)(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)N(S(=O)(=O)C)C(=O)OC(C)(C)C)O)CC1=CC=CC=C1)(F)F | C42H49F3N2O10S2
